US06852731B2
2-(methylamino)-1-(1-methyl-1H-pyrrol-2-yl)ethanol
2-chloro-1-(1-methyl-1H-pyrrol-2-yl)ethanol (Croce, P. D.; Ferraccioli, R.; Ritieni, A. Synthesis, 1990, 212-213) (2.05 g) is dissolved in methanol (40 mL) and added dropwise to a 2.0 M solution of methylamine in methanol (65 mL) at 0° C. The reaction mixture is stirred at 0° C. for 1 h and then allowed to warm to room temperature. The reaction mixture is stirred at room temperature for 18 h and then cooled to 0° C. Sodium borohydride (0.738 g) in H2O (40 mL) is added dropwise. The reaction mixture is stirred at 0° C. for 30 min and then allowed to warm to room temperature. The reaction mixture is stirred at room temperature for 18 h. An additional 0.738 g (19.5 mmol) of sodium borohydride is added and the reaction mixture is stirred at room temperature for 18 h. The reaction is quenched with a 1 N HCl solution and then concentrated in vacuo to remove methanol. The aqueous layer is adjusted to pH 12 with a 2 N NaOH solution and extracted with CH2Cl2 (4×100 mL). The combined organic layers are dried (MgSO4), filtered, and concentrated in vacuo. The resulting yellow oil is crystallized from ethyl acetate to yield 0.772 g of the title compound as a white solid.

reactant | 2-chloro-1-(1-methyl-1H-pyrrol-2-yl)ethanol | ClCC(O)C=1N(C=CC1)C | C7H10ClNO
reactant | methylamine | CN | CH5N
reactant | Sodium borohydride | 0.738 g | [BH4-].[Na+]
reactant | sodium borohydride | 19.5 mmol, 0.738 g | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 65 mL | CO | CH4O
solvent | H2O | 40 mL | O | H2O
product | 2-(methylamino)-1-(1-methyl-1H-pyrrol-2-yl)ethanol | 0.772 g | CNCC(O)C=1N(C=CC1)C | C8H14N2O
